US06900353B2
Preparation of [2-Fluoro-2-(4-{2-[(methylsulfonyl)amino]ethoxy}phenyl)cyclopentyl][(methylethyl)sulfonyl]amine
Into a 50 mL 3 neck flask fitted with a stirrer and thermometer, [2-hydroxy-2-(4-{2-[(methylsulfonyl)amino]ethoxy}phenyl)cyclopentyl][(methylethyl)sulfonyl]amine (150 mg, 0.36 mmol) in CH2Cl2 (5 mL) is added dropwise to 0.01 mL DAST in CH2CL2 (15 mL) while stirring at −78° C. under a nitrogen atmosphere. The reaction is allowed to warm to room temperature and diluted with CH2Cl2 (20 mL). This organic layer is washed with H2O, dried over Na2SO4, filtered, and concentrated under reduced vacuum to yield the product. This material is purified via silica gel chromatography employing the Chromatotron® and using 2000 micron rotor while eluting with a suitable eluent, such as hexanes/ethyl acetate to provide the final title compound.

reactant | [2-hydroxy-2-(4-{2-[(methylsulfonyl)amino]ethoxy}phenyl)cyclopentyl][(methylethyl)sulfonyl]amine | 0.36 mmol, 150 mg | OC1(C(CCC1)NS(=O)(=O)C(C)C)C1=CC=C(C=C1)OCCNS(=O)(=O)C | C17H28N2O6S2
reactant | DAST | 0.01 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | [2-Fluoro-2-(4-{2-[(methylsulfonyl)amino]ethoxy}phenyl)cyclopentyl][(methylethyl)sulfonyl]amine | FC1(C(CCC1)NS(=O)(=O)C(C)C)C1=CC=C(C=C1)OCCNS(=O)(=O)C | C17H27FN2O5S2
